US08304407B2
To an ethanol solution (15 mL) containing K3PO4 (938 mg, 4.42 mmol), 4-(pyrrolidine-1-carbonyl)phenylboronic acid (785 mg, 3.58 mmol), and (1E,4E)-ethyl-8-bromo-2-(tert-butoxycarbonyl)-3H-benzo[b]azepine-4-carboxylate (489 mg, 1.19 mmol), was added palladium acetate (80.5 mg, 0.358 mmol). The reaction was heated to 60° C. for 2 hours, then cooled to room temperature and concentrated to dryness. The brown oil was purified by preparative LC plate (100% EtOAc) to provide (1E,4E)-ethyl-2-(tert-butoxycarbonyl)-8-(4-(pyrrolidine-1-carbonyl)phenyl)-3H-benzo[b]azepine-4-carboxylate (277 mg, 46% yield) as a tan oil.

reactant | K3PO4 | 4.42 mmol, 938 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 4-(pyrrolidine-1-carbonyl)phenylboronic acid | 3.58 mmol, 785 mg | N1(CCCC1)C(=O)C1=CC=C(C=C1)B(O)O | C11H14BNO3
reactant | (1E,4E)-ethyl-8-bromo-2-(tert-butoxycarbonyl)-3H-benzo[b]azepine-4-carboxylate | 1.19 mmol, 489 mg | C(C)OC(=O)/C/1=C/C2=C(\N=C(/C1)\C(=O)OC(C)(C)C)C=C(C=C2)Br | C18H20BrNO4
catalyst | palladium acetate | 0.358 mmol, 80.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | (1E,4E)-ethyl-2-(tert-butoxycarbonyl)-8-(4-(pyrrolidine-1-carbonyl)phenyl)-3H-benzo[b]azepine-4-carboxylate | 277 mg, 46% yield | C(C)OC(=O)/C/1=C/C2=C(\N=C(/C1)\C(=O)OC(C)(C)C)C=C(C=C2)C2=CC=C(C=C2)C(=O)N2CCCC2 | C29H32N2O5
